US07173134B2
A. 4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-4,5,6,7-tetrahydro-1-benzofuran-2-carboxylic acid
A methanol solution (20 mL) was mixed with 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-4,5,6,7-tetrahydro-1-benzofuran]-2-carboxaldehyde (100 mg, 0.30 mmol, see example 1 part C for preparation), 5.0 N NaOH (10 mL) and Ag2O (138 mg, 0.59 mmol. The resulting black heterogeneous reaction mixture was allowed to stir at room temperature for a period of 17 hours. The reaction mixture was diluted with water and washed with ethyl ether. The ether washes were discarded and the aqueous mixture was made acidic (pH 3.0) using concentrated HCl. The resulting mixture was extracted with ether and dried over MgSO4. The solvent was evaporated in vacuo to yield 73 mg of pure solid.

reactant | methanol | 20 mL | CO | CH4O
reactant | 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-4,5,6,7-tetrahydro-1-benzofuran | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1CCCC2=C1C=CO2)C | C22H28O
reactant | NaOH | 5.0 N, 10 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-4,5,6,7-tetrahydro-1-benzofuran-2-carboxylic acid | 73 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1CCCC2=C1C=C(O2)C(=O)O)C | C23H28O3
